US09259470B2
NaH (13.2 mg, 0.331 mmol; 60 wt % oil dispersion) neat as a solid was added to a stirred suspension of 4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one (65.9 mg, 0.301 mmol) in DMF (600 μL) at room temperature under nitrogen. After 30 minutes, the suspension had become a solution. A solution of 5-(chloro(4-chloro-3-fluorophenyl)methyl)oxazole (111 mg, 0.451 mmol) was then added as a solution in DMF (300 μL) dropwise by syringe. After stirring at room temperature overnight, TLC in ethyl acetate showed a new high rf spot, as well as a new mid rf spot (both bright blue under UV). The reaction was quenched with water (1 mL) and then partitioned between ethyl acetate (30 mL) and water with a little brine (30 mL). The organics were isolated and washed with water/brine (3×30 mL). The organics were isolated, dried (MgSO4), filtered and concentrated to an oil. The mixture was loaded onto a Biotage 12M column with 7/3 ethyl acetate/hexanes and eluted. Two main spots eluted and corresponding fractions were pooled and concentrated. The least polar fraction appears to be alkylated on the pyridone oxygen. The second eluting spot appears to be the desired N-alkylated pyridone, which was isolated as a foam, 1-((4-chloro-3-fluorophenyl)(oxazol-5-yl)methyl)-4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one (50 mg, 39%).

reactant | NaH | 0.331 mmol, 13.2 mg | [H-].[Na+]
reactant | 4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one | 0.301 mmol, 65.9 mg | CSC1=NC=CC(=N1)C1=CC(NC=C1)=O | C10H9N3OS
reactant | 5-(chloro(4-chloro-3-fluorophenyl)methyl)oxazole | 0.451 mmol, 111 mg | ClC(C1=CN=CO1)C1=CC(=C(C=C1)Cl)F | C10H6Cl2FNO
solvent | DMF | 600 μL | CN(C)C=O | C3H7NO
solvent | DMF | 300 μL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-((4-chloro-3-fluorophenyl)(oxazol-5-yl)methyl)-4-(2-(methylthio)pyrimidin-4-yl)pyridin-2(1H)-one | 50 mg, 39% | ClC1=C(C=C(C=C1)C(N1C(C=C(C=C1)C1=NC(=NC=C1)SC)=O)C1=CN=CO1)F | C20H14ClFN4O2S
